US09227978B2
2-((2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)amino)acetic acid
A mixture of methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate (5.0 g, 14.08 mmol), 2,5-dichlorophenylboronic acid (4.03 g, 21.12 mmol), Pd(PPh3)4 (1.626 g, 1.04 mmol), Na2CO3 (4.477 g, 42.24 mmol) in 1,4-dioxane (100 mL) and water (20 mL) was stirred at reflux under argon for 6 h. Then reaction mixture was allowed to cool to room temperature, quenched with water and acidified with HCl (10% in water) to adjust the pH to 3-4. The mixture was extracted with ethyl acetate, washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (50% petroleum ether/ethyl acetate) to afford the desired product (3 g, 59% yield) as an off-white solid. ESI-MS m/z: 360.2 [M−H]−.

reactant | methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate | 14.08 mmol, 5.0 g | ClC1=CC(=C(C=C1I)NCC(=O)OC)OC | C10H11ClINO3
reactant | 2,5-dichlorophenylboronic acid | 21.12 mmol, 4.03 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 42.24 mmol, 4.477 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.04 mmol, 1.626 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-((2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)amino)acetic acid | 3 g, 59% yield | ClC1=C(C=C(C=C1)Cl)C1=CC(=C(C=C1Cl)OC)NCC(=O)O | C15H12Cl3NO3
